US04298529
To a solution of ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer, 31.83 g) in chloroform (70 ml) was added dropwise sulfuryl chloride (29.7 g) over 6 minutes under ice-cooling, and the mixture was stirred for 4.5 hours at ambient temperature. The mixture was cooled to 7° C., and sulfuryl chloride (13.498 g) was further added thereto. The mixture was stirred at ambient temperature for overnight. After the reaction mixture was cooled with ice-water, chloroform (50 ml) and water (40 ml) were added thereto with stirring. The mixture was saturated with sodium chloride, and the organic layer was separated, washed with a saturated aqueous solution of sodium chloride (40 ml×2), dried over magnesium sulfate and then filtered. The filtrate was evaporated to give ethyl 2-hydroxyimino-3-oxo-4-chlorobutyrate (syn isomer), quantitatively.

reactant | ethyl 2-hydroxyimino-3-oxobutyrate | 31.83 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | sulfuryl chloride | 29.7 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 13.498 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 40 ml | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-hydroxyimino-3-oxo-4-chlorobutyrate | ON=C(C(=O)OCC)C(CCl)=O | C6H8ClNO4
